US09062070B2
5-(2-Bromo-acetyl)-4-methyl-3H-isobenzofuran-1-one (48.8 g., 181 mmol) was charged to a 5 L 3 neck RB flask equipped with overhead stirrer, thermocouple, and heating mantle. 2-Propanol (1.22 L) was added, followed by 610 mL of pH 7 0.1M potassium phosphate buffer. Buffer solution (610 mL) was charged to a 1.0 L erlenmeyer, and 2.44 g of NADP was added to the erlenmeyer and swirled to dissolve. A reducing enzyme, KRED MIF-20 (2.44 g) (available from Codexis, Inc., 200 Penobscot Drive, Redwood City, Calif. 94063, www.codexis.com, tel. 1-650-421-8100) was added to the erlenmeyer flask and the mixture was swirled to dissolve the solids. The resulting solution was added to the 5 L round bottom, which was then heated to 28° C. and aged for 6 hours, at which point the reaction was cooled to RT and triethylamine (50.2 mL, 360 mmol) was added. The resulting solution was aged at 40° C. for 1 h. The light slurry solution was cooled to RT, after which 122 g NaCl was added. The solution was aged at RT then extracted with 1.22 L isopropyl acetate (IPAc). The aqueous layer was re-extracted with 400 mL IPAc and the combined organics were washed with 400 mL 20% brine solution, dried over MgSO4, filtered and concentrated by rotary evaporation. The resulting solids were taken up in 100 mL IPAc (thick slurry). Hexanes were added (400 mL) and the suspension aged at RT then filtered and washed w/5:1 Hexanes:IPAc solution (150 mL). The solids were dried under vacuum at RT to provide 4-methyl-5-[(2R)-oxiran-2-yl]-2-benzofuran-1(3H)-one. 1H NMR (400 MHz, CDCl3): δ 7.75 (d, J=8.1 Hz, 1H), 7.42 (d, J=8.1 Hz, 1H), 5.28 (s, 2H), 4.10 (dd, J=4.0, 2.8, 1H), 3.26 (dd, J=5.6, 4.0, 1H), 2.72 (dd, J=5.6, 2.8, 1H), 2.42 (s, 3H)

reactant | 5-(2-Bromo-acetyl)-4-methyl-3H-isobenzofuran-1-one | 181 mmol, 48.8 g | BrCC(=O)C=1C(=C2COC(C2=CC1)=O)C | C11H9BrO3
reactant | potassium phosphate | 0.1M, pH 7 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | NADP | 2.44 g | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | triethylamine | 360 mmol, 50.2 mL | C(C)N(CC)CC | C6H15N
reactant | NaCl | 122 g | [Na+].[Cl-]
solvent | 2-Propanol | 1.22 L | CC(C)O | C3H8O
product | 4-methyl-5-[(2R)-oxiran-2-yl]-2-benzofuran-1(3H)-one | CC1=C(C=CC=2C(OCC21)=O)[C@H]2OC2 | C11H10O3
